### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Yoneda): dualize yoneda lemma

### PR DESCRIPTION
**Pull request by chrisflav**
Refactors `yonedaLemma`. Also dualizes all definitions and results related to `yonedaLemma` to obtain `coyonedaLemma` and friends.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Yoneda.lean [hunk 1]
```diff
@@ -504,4 +506,201 @@ lemma isIso_of_yoneda_map_bijective {X Y : C} (f : X ⟶ Y)
...
+
+lemma coyonedaEquiv_comp {X : Cᵒᵖ} {F G : C ⥤ Type v₁} (α : coyoneda.obj X ⟶ F) (β : F ⟶ G) :
+    coyonedaEquiv (α ≫ β) = β.app _ (coyonedaEquiv α) :=
+  rfl
+
+lemma coyonedaEquiv_comp' {X : C} {F G : C ⥤ Type v₁} (α : coyoneda.obj (op X) ⟶ F) (β : F ⟶ G) :
+    coyonedaEquiv (α ≫ β) = β.app X (coyonedaEquiv α) :=
+  rfl
+
+-- This lemma has always been bad, but leanprover/lean4#2644 made `simp` start noticing
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Yoneda.lean:632]: Do we want it as a `simp` lemma then? Removing the attribute doesn't break anything in the rest of the file.

**Review by dagurtomas — APPROVED** [review]
Seems like a straightforward "dualisation". LGTM

File: Mathlib/CategoryTheory/Yoneda.lean [hunk 2]
```diff
@@ -504,4 +506,201 @@ lemma isIso_of_yoneda_map_bijective {X Y : C} (f : X ⟶ Y)
...
+-/
+@[simps!]
+def coyonedaSections (X : Cᵒᵖ) (F : C ⥤ Type v₁) :
+    (coyoneda.obj X ⟶ F) ≅ ULift.{u₁} (F.obj X.unop) :=
+  (coyonedaLemma C).app (X.unop, F)
+
+/-- We have a type-level equivalence between natural transformations from the coyoneda embedding
+and elements of `F.obj X.unop`, without any universe switching.
+-/
+def coyonedaEquiv {X : Cᵒᵖ} {F : C ⥤ Type v₁} : (coyoneda.obj X ⟶ F) ≃ F.obj X.unop :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Yoneda.lean:601]: I think that this equivalence should be defined first, and everything else should be deduced from it. (The same refactor should be done also for `yonedaEquiv`.)

Comment (chrisflav) [reply Mathlib/CategoryTheory/Yoneda.lean:599]: Are you saying that `coyonedaLemma` should become:
```lean
def coyonedaLemma : coyonedaPairing C ≅ coyonedaEvaluation C where
  hom := {
      app := fun (X, F) x ↦ ULift.up (coyonedaEquiv x)
      naturality := by
        intro (X, F) (Y, G) f
        ext a
        simp [coyonedaEvaluation, ← FunctorToTypes.naturality, coyonedaEquiv]
    }
  inv := {
      app := fun (X, F) x ↦ coyonedaEquiv.symm x.down
      naturality := by
        intro X Y f
        ext a b c
        simp [← FunctorToTypes.naturality, coyonedaEquiv]
    }
  hom_inv_id := by
    ext
    simp
  inv_hom_id := by
    ext
    simp
    rfl
```
where `coyonedaEquiv` is moved up (and changed to take `X : C` instead of `X : Cᵒᵖ`, since this has better definitional properties (gets rid of some `erw`s).

Comment (joelriou) [reply Mathlib/CategoryTheory/Yoneda.lean:599]: Yes, mostly, though a more direct definition can be obtained as follows:
```lean
def coyonedaEquiv {X : Cᵒᵖ} {F : C ⥤ Type v₁} : (coyoneda.obj X ⟶ F) ≃ F.obj X.unop where
  toFun φ := φ.app _ (𝟙 _)
  invFun := sorry
  left_inv := sorry
  right_inv := sorry

def coyonedaLemma : coyonedaPairing C ≅ coyonedaEvaluation C :=
  NatIso.ofComponents (fun X => Equiv.toIso (coyonedaEquiv.trans Equiv.ulift.symm)) sorry
```

Comment (chrisflav) [reply Mathlib/CategoryTheory/Yoneda.lean]: Please check the latest commit to see if this is what you wanted. In the proof of `coyonedaLemma` appear two `erw`s which I don't understand. I tried to debug with `pp.explicit` but did not find why the lemma does not apply with `rw` alone.

File: Mathlib/CategoryTheory/Yoneda.lean [hunk 3]
```diff
@@ -543,4 +544,201 @@ lemma isIso_of_yoneda_map_bijective {X Y : C} (f : X ⟶ Y)
...
+  rfl
+
+theorem coyonedaEquiv_naturality {X Y : Cᵒᵖ} {F : C ⥤ Type v₁} (f : coyoneda.obj X ⟶ F)
+    (g : Y ⟶ X) : F.map g.unop (coyonedaEquiv f) = coyonedaEquiv (coyoneda.map g ≫ f) := by
+  change (f.app X.unop ≫ F.map g.unop) (𝟙 X.unop) = f.app Y.unop (g.unop ≫ 𝟙 Y.unop)
+  rw [← f.naturality]
+  dsimp
+  simp
+
+lemma coyonedaEquiv_naturality' {X Y : C} {F : C ⥤ Type v₁} (f : coyoneda.obj (op X) ⟶ F)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Yoneda.lean:582]: I think that the right statement is your `coyonedaEquiv_naturality'` and that `coyoneda_naturality` can be removed. (The idea is that in `coyonedaEquiv_naturality`, there are no `op` or `unop` of morphisms in the LHS.)

File: Mathlib/CategoryTheory/Yoneda.lean [hunk 4]
```diff
@@ -543,4 +544,201 @@ lemma isIso_of_yoneda_map_bijective {X Y : C} (f : X ⟶ Y)
...
+    (g : X ⟶ Y) : F.map g (coyonedaEquiv f) = coyonedaEquiv (coyoneda.map g.op ≫ f) :=
+  coyonedaEquiv_naturality _ _
+
+lemma coyonedaEquiv_comp {X : Cᵒᵖ} {F G : C ⥤ Type v₁} (α : coyoneda.obj X ⟶ F) (β : F ⟶ G) :
+    coyonedaEquiv (α ≫ β) = β.app _ (coyonedaEquiv α) :=
+  rfl
+
+lemma coyonedaEquiv_comp' {X : C} {F G : C ⥤ Type v₁} (α : coyoneda.obj (op X) ⟶ F) (β : F ⟶ G) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Yoneda.lean:590]: I think that this `coyonedaEquiv_comp'` can be removed.

Comment (chrisflav) [reply Mathlib/CategoryTheory/Yoneda.lean:590]: I think `coyonedaEquiv_comp` should be removed instead, since `coyonedaEquiv_comp'` is the one in simp NF.

File: Mathlib/CategoryTheory/Yoneda.lean [hunk 5]
```diff
@@ -543,4 +544,201 @@ lemma isIso_of_yoneda_map_bijective {X Y : C} (f : X ⟶ Y)
...
+theorem coyonedaSectionsSmall_inv_app_apply {C : Type u₁} [SmallCategory C] (X : Cᵒᵖ)
+    (F : C ⥤ Type u₁) (t : F.obj (unop X)) (Y : C) (f : X.unop ⟶ Y) :
+    ((coyonedaSectionsSmall X F).inv t).app Y f = F.map f t :=
+  rfl
+
+attribute [local ext] Functor.ext
+
+/- Porting note: this used to be two calls to `tidy` -/
+/-- The curried version of coyoneda lemma when `C` is small. -/
+def curriedCoyonedaLemma {C : Type u₁} [SmallCategory C] :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Yoneda.lean:696]: The definition and the next one does not need `ulift`, so that I believe it should be defined directly as:
```lean
/-- The curried version of coyoneda lemma when `C` is small. -/
def curriedCoyonedaLemma {C : Type u₁} [SmallCategory C] :
    (coyoneda.rightOp ⋙ coyoneda : C ⥤ (C ⥤ Type u₁) ⥤ Type u₁) ≅ evaluation C (Type u₁) :=
  NatIso.ofComponents (fun X =>
    NatIso.ofComponents (fun F => Equiv.toIso coyonedaEquiv)) (by sorry)

/-- The curried version of coyoneda lemma when `C` is small. -/
def curriedCoyonedaLemma' {C : Type u₁} [SmallCategory C] :
    yoneda ⋙ (whiskeringLeft C (C ⥤ Type u₁)ᵒᵖ (Type u₁)).obj coyoneda.rightOp
      ≅ 𝟭 (C ⥤ Type u₁) :=
  NatIso.ofComponents (fun F => NatIso.ofComponents (fun X => Equiv.toIso coyonedaEquiv) sorry)
```
(By extending `Functor.flip` to make it a functor which sends a functor to its flip, it should be possible to define the curried iso from the first, but I am not sure there it a strong need from this API for bifunctors.)

File: Mathlib/CategoryTheory/Yoneda.lean (hunk 4 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Yoneda.lean]: Correct!

File: Mathlib/CategoryTheory/Yoneda.lean (hunk 2 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Yoneda.lean]: I am not worried about the two `erw`. It seems it is related to issues with coercions to functions (which cause a lot of similar problems, and I am qualified to know how this could be fixed...).

Comment (chrisflav) [reply Mathlib/CategoryTheory/Yoneda.lean]: If you are happy with the `co`-part, I'll adjust the non-`co` part accordingly.

File: Mathlib/CategoryTheory/Yoneda.lean [hunk 6]
```diff
@@ -543,4 +544,178 @@ lemma isIso_of_yoneda_map_bijective {X Y : C} (f : X ⟶ Y)
...
+-/
+@[simps!]
+def coyonedaSections (X : Cᵒᵖ) (F : C ⥤ Type v₁) :
+    (coyoneda.obj X ⟶ F) ≅ ULift.{u₁} (F.obj X.unop) :=
+  (coyonedaLemma C).app (X.unop, F)
+
+/-- When `C` is a small category, we can restate the isomorphism from `coyonedaSections`
+without having to change universes.
+-/
+def coyonedaSectionsSmall {C : Type u₁} [SmallCategory C] (X : Cᵒᵖ) (F : C ⥤ Type u₁) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Yoneda.lean:677]: If seems that this definition can be removed. Could you try to get rid of  `coyonedaSections` as well? (Currently, it is certainly unused! But, for the other, as this is a direct application of `yonedaLemma`, it should be possible to change the downstream uses of it so that it refers directly to the (refactored) `yonedaLemma`.)

File: Mathlib/CategoryTheory/Yoneda.lean (hunk 2 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Yoneda.lean]: Apart from the question of the fate of `coyonedaSections*`, it looks good to me! (I am sorry that while proceeding to this PR, you did not expect that I would trick you into doing a refactor!)

File: Mathlib/CategoryTheory/Yoneda.lean (hunk 6 above)
Comment (chrisflav) [reply Mathlib/CategoryTheory/Yoneda.lean]: I removed them.

**Comment by chrisflav** [comment]
@joelriou I adapted the `yoneda` part accordingly. Note that I kept both `yonedaEquiv_naturality` versions, since, in contrary to the `coyoneda` case, the one with no `op`s on the LHS is not in simp NF.

File: Mathlib/CategoryTheory/Yoneda.lean [hunk 7]
```diff
@@ -397,150 +455,195 @@ is naturally isomorphic to the evaluation `(X, F) ↦ F.obj X`.
...
 
-/-- The isomorphism between `yoneda.obj X ⟶ F` and `F.obj (op X)`
-(we need to insert a `ULift` to get the universes right!)
-given by the Yoneda lemma.
--/
-@[simps!]
-def yonedaSections (X : C) (F : Cᵒᵖ ⥤ Type v₁) : (yoneda.obj X ⟶ F) ≅ ULift.{u₁} (F.obj (op X)) :=
-  (yonedaLemma C).app (op X, F)
-#align category_theory.yoneda_sections CategoryTheory.yonedaSections
+attribute [local ext] Functor.ext
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Yoneda.lean:472]: I guess that we could remove this line now:
```suggestion
```

**Comment by joelriou** [comment]
Thanks so much for the effort!

bors d+

**Comment by chrisflav** [comment]
Thanks for the reviews and suggestions!
